** sch_path: /foss/designs/SKY/inverter/inverter_tb_dc_pex.sch
**.subckt inverter_tb_dc_pex Vout
*.opin Vout
Vdd Vdd GND 1.8
Vin Vin GND 0.5
x1 Vdd Vin Vout GND inverter
**** begin user architecture code


.include /foss/designs/SKY/inverter/inverter.pex.spice
.control
dc Vin 0 1.8 0.01
plot v(Vin) v(Vout)
op
.endc



** opencircuitdesign pdks install
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt


**** end user architecture code
**.ends
.GLOBAL GND
.end
